US05274116
(S)-Phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate
To a solution of 1-aminopyrrole (3.28 g) and carbobenzyloxy-L-serine (9.57 g) in 100 ml of dry DCM and 10 ml of dry dimethylformamide was added DCC (10.0 g) at 0° C. After 10 minutes the ice bath was removed and the reaction mixture was stirred at room temperature overnight. The precipitate was filtered and stirred in boiling ethyl acetate. The mixture was filtered and the filtrate was combined with the filtrate of the reaction mixture and evaporated to dryness. The residue was purified by flash column chromatography (silica gel, DCM/methanol 20:1). The appropriate fractions were concentrated and the residue recrystallized from ethyl acetate to afford 7.48 g of the product as crystals, m.p. 163°-164° C.

reactant | 1-aminopyrrole | 3.28 g | NN1C=CC=C1 | C4H6N2
reactant | carbobenzyloxy-L-serine | 9.57 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | DCC | 10.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-Phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 7.48 g | C1(=CC=CC=C1)COC(N[C@H](C(NN1C=CC=C1)=O)CO)=O | C15H17N3O4
